US07416689B2
Each of the above compositions was prepared by adding 0.164 mol/L of CPPO and 0.0074 mol/L of 1-c BPEA to the solvent. Then, the measurement data were obtained by adding 0.42 cc of oxidizing liquid to 0.84 cc of each of the prepared solutions. The oxidizing liquid was the same as that used for Samples 1 and 2. The similar luminescent intensities were obtained when dimethyl phthalate was used as the solvent for this oxidizing liquid.

reactant | CPPO | 0.164 mol/L | CCCCCOC(=O)C1=C(C(=C(C=C1Cl)Cl)Cl)OC(=O)C(=O)OC2=C(C(=CC(=C2Cl)Cl)Cl)C(=O)OCCCCC | C26H24Cl6O8
reactant | BPEA | C1=CC=C(C=C1)C#CC2=C3C=CC=CC3=C(C4=CC=CC=C42)C#CC5=CC=CC=C5 | C30H18
product | dimethyl phthalate | C(C=1C(C(=O)OC)=CC=CC1)(=O)OC | C10H10O4
